US07342030B2
[4-(4-[1,2,3]Triazol-1-yl-butyl)-phenyl]-[2-(5-trifluoromethoxy-1H-indol-2-yl)-oxazol-4-ylmethyl]-carbamic acid tert-butyl ester (0.31 g, 0.52 mmol) was stirred in a mixture of dichloro methane and trifluoro acetic acid (1:1, 10 ml) for 3 h. After concentration the crude product was purified on silica gel (ethyl acetate) yielding [4-(4-[1,2,3]triazol-1-yl-butyl)-phenyl]-[2-(5-trifluoromethoxy-1H-indol-2-yl)-oxazol-4-ylmethyl]-amine as light yellow solid.

reactant | [4-(4-[1,2,3]Triazol-1-yl-butyl)-phenyl]-[2-(5-trifluoromethoxy-1H-indol-2-yl)-oxazol-4-ylmethyl]-carbamic acid tert-butyl ester | 0.52 mmol, 0.31 g | C(C)(C)(C)OC(N(CC=1N=C(OC1)C=1NC2=CC=C(C=C2C1)OC(F)(F)F)C1=CC=C(C=C1)CCCCN1N=NC=C1)=O | C30H31F3N6O4
solvent | dichloro methane | ClCCl | CH2Cl2
solvent | trifluoro acetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | [4-(4-[1,2,3]triazol-1-yl-butyl)-phenyl]-[2-(5-trifluoromethoxy-1H-indol-2-yl)-oxazol-4-ylmethyl]-amine | N1(N=NC=C1)CCCCC1=CC=C(C=C1)NCC=1N=C(OC1)C=1NC2=CC=C(C=C2C1)OC(F)(F)F | C25H23F3N6O2
